US07728025B2
(Step 6) Production of 1-acetyl-2-(2-fluoro-5-nitro-4-((pyridin-2-ylcarbonyl)amino)phenyl)pyrrolidin-3-yl acetate diastereomer A and diastereomer B
1 ml of fuming nitric acid was added to 57 mg of N-(4-(3-((t-butyl(dimethyl)silyl)oxy)pyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide, and the reaction liquid was stirred at room temperature for 40 minutes. The reaction liquid was poured into a mixed solution of ice-aqueous saturated sodium bicarbonate, extracted with chloroform, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), chloroform/methanol=20/1) to obtain diastereomer A and diastereomer B of the entitled compound each as a yellow oily substance.

reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | N-(4-(3-((t-butyl(dimethyl)silyl)oxy)pyrrolidin-2-yl)-3-fluorophenyl)pyridine-2-carboxamide | 57 mg | [Si](C)(C)(C(C)(C)C)OC1C(NCC1)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F | C22H30FN3O2Si
product | 1-acetyl-2-(2-fluoro-5-nitro-4-((pyridin-2-ylcarbonyl)amino)phenyl)pyrrolidin-3-yl acetate | C(C)(=O)OC1C(N(CC1)C(C)=O)C1=C(C=C(C(=C1)[N+](=O)[O-])NC(=O)C1=NC=CC=C1)F | C20H19FN4O6
